US04971986
3-formylbenzamidine-thiosemicarbazone hydrochloride
A solution of 1.84 g (~0.01 mol) of crude 3-formylbenzamidine hydrochloride (prepared analogously to Example 1b) in 10 ml of methanol is added dropwise to a solution of 0.91 g (0.01 mol) of thiosemicarbazide in 5 ml of water and 10 ml of 2N hydrochloric acid. This mixture is heated under reflux for 1 hour, cooled, filtered and concentrated to dryness by evaporation. The residue is recrystallised from methanol; m.p. 210° (with decomposition). The product contains 0.5 mol of water.

reactant | 3-formylbenzamidine hydrochloride | ~0.01 mol, 1.84 g | Cl.C(=O)C=1C=C(C(=N)N)C=CC1
reactant | thiosemicarbazide | 0.01 mol, 0.91 g | NNC(=S)N | CH5N3S
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
solvent | hydrochloric acid | 2N, 10 ml | Cl | ClH
solvent | water | 0.5 mol | O | H2O
product | 3-formylbenzamidine-thiosemicarbazone hydrochloride | Cl.C(C=1C=C(C(=N)N)C=CC1)=NNC(=S)N | InChI=1S/C9H11N5S.ClH/c10-8(11)7-3-1-2-6(4-7)5-13-14-9(12)15;/h1-5H,(H3,10,11)(H3,12,14,15);1H
